US09370515B2
Preparation of 4,5,6,7-tetrahydro-7-methylene-5-tosylthieno[3,2-c]pyridine
To a solution of methyltriphenylphosphonium bromide (2.05 g, 5.73 mmol, 2.0 equiv) in THF (10.0 mL) at −78° C. was added n-BuLi (3.58 mL, 1.6 M solution, 2.0 equiv) and stirred for 30 min followed by addition of 5,6-dihydro-5-tosylthieno[3,2-c]pyridin-7(4H)-one (880 mg, 2.86 mmol, 1.0 equiv) in THF (5.00 mL). The reaction mixture was stirred at rt for 1 h, then quenched by the addition of a saturated aqueous solution of ammonium chloride. Purification by column chromatography using 5% ethyl acetate in hexanes elution gave 175 mg of the yellow solid, 20%.

reactant | n-BuLi | 1.6 M, 3.58 mL, 2.0 equiv | [Li]CCCC
reactant | 5,6-dihydro-5-tosylthieno[3,2-c]pyridin-7(4H)-one | 2.86 mmol, 880 mg, 1.0 equiv | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC2=C(C(C1)=O)SC=C2 | C14H13NO3S2
catalyst | methyltriphenylphosphonium bromide | 5.73 mmol, 2.05 g, 2.0 equiv | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | 4,5,6,7-tetrahydro-7-methylene-5-tosylthieno[3,2-c]pyridine | 175 mg | C=C1C2=C(CN(C1)S(=O)(=O)C1=CC=C(C)C=C1)C=CS2 | C15H15NO2S2
